US04105776
3-Mercapto-2-methylpropanoic acid (2.4 g.) and N-hydroxymethylacetamide (1.8 g.) are dissolved in trifluoroacetic acid and the solution is stored at room temperature for 1 hour. The trifluoroacetic acid is removed in vacuo and the residue is dried in vacuo over potassium hydroxide to yield 3-acetamidomethylthio-2-methylpropanoic acid.

reactant | 3-Mercapto-2-methylpropanoic acid | 2.4 g | SCC(C(=O)O)C | C4H8O2S
reactant | N-hydroxymethylacetamide | 1.8 g | OCNC(C)=O | C3H7NO2
solvent | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | 3-acetamidomethylthio-2-methylpropanoic acid | C(C)(=O)NCSCC(C(=O)O)C | C7H13NO3S
